US08563577B2
3-(Chloromethyl)-5-phenyl-1,2,4-oxadiazole (I45) (79 mg, 0.40 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-phenyl-2-(o-tolylamino)acetate (I23) (129 mg, 0.37 mmol) in acetonitrile (1.2 ml) and ethyl acetate (2.4 ml). The yellow solution was stirred at room temperature for 48 hours. The solution was evaporated, and the residue was purified by flash chromatography (DCM/MeOH=9/1) to obtain (3R)-1-((5-phenyl-1,2,4-oxadiazol-3-yl)methyl)-3-(2-phenyl-2-(o-tolylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (39 mg, 19% yield, mixture of diastereomers).

reactant | 3-(Chloromethyl)-5-phenyl-1,2,4-oxadiazole | 0.40 mmol, 79 mg | ClCC1=NOC(=N1)C1=CC=CC=C1 | C9H7ClN2O
reactant | (R)-quinuclidin-3-yl 2-phenyl-2-(o-tolylamino)acetate | 0.37 mmol, 129 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)NC2=C(C=CC=C2)C | C22H26N2O2
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 2.4 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-((5-phenyl-1,2,4-oxadiazol-3-yl)methyl)-3-(2-phenyl-2-(o-tolylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 39 mg, 19% yield | [Cl-].C1(=CC=CC=C1)C1=NC(=NO1)C[N+]12C[C@@H](C(CC1)CC2)OC(C(NC2=C(C=CC=C2)C)C2=CC=CC=C2)=O | InChI=1S/C31H33N4O3.ClH/c1-22-10-8-9-15-26(22)32-29(24-11-4-2-5-12-24)31(36)37-27-20-35(18-16-23(27)17-19-35)21-28-33-30(38-34-28)25-13-6-3-7-14-25;/h2-15,23,27,29,32H,16-21H2,1H3;1H/q+1;/p-1/t23?,27-,29?,35?;/m0./s1
